US04912107
1.2 g (3.8 mmole) 1,2,3,3a,4,5,6,10c-octahydro-1,3-dioxo-4-phenylpyrrolo[3,4-c]carbazole and 2.2 g (9.7 mmole) DDQ are heated under reflux for 20 hours in 30 ml toluene. The solvent is distilled off in a vacuum and the residue chromatographed on silica gel with toluene/ethyl acetate 3:1. The fraction with the Rf of 0.3 is isolated, stirred up with acetone/diisopropyl ether, and the crystals formed are filtered off. One obtains 1,2,3,6-tetrahydro-1,3-dioxo-4-phenyl-pyrrolo[3,4-c]carbazole in the form of yellow crystals of the mp 262°-263° C.

reactant | 1,2,3,3a,4,5,6,10c-octahydro-1,3-dioxo-4-phenylpyrrolo[3,4-c]carbazole | 3.8 mmole, 1.2 g | O=C1NC(C2C(CC=3NC=4C=CC=CC4C3C21)C2=CC=CC=C2)=O | C20H16N2O2
reactant | DDQ | 9.7 mmole, 2.2 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | acetone diisopropyl ether | CC(=O)C.C(C)(C)OC(C)C
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 1,2,3,6-tetrahydro-1,3-dioxo-4-phenyl-pyrrolo[3,4-c]carbazole | O=C1NC(C=2C(=CC=3NC=4C=CC=CC4C3C21)C2=CC=CC=C2)=O | C20H12N2O2
